US08629282B2
Racemic (3R*,4S*)-3-azido-4-hydroxychroman-7-carbonitrile Int-2-C (5.08 g, 23.5 mmol) and hydroxylamine hydrochloride (3.27 g, 47.0 mmol) were mixed in 2-propanol (94.0 mL). To this suspension was added sodium bicarbonate (7.90 g, 94.0 mmol) and the resulting mixture was heated at reflux for 2 h. After the reaction mixture was cooled to room temperature, it was diluted with EtOAc (250 mL) and washed with water and brine. The combined aqueous layers were extracted again with EtOAc. The combined organic layers were dried (MgSO4) and concentrated to afford racemic (3R*,4S*,E/Z)-3-azido-N′,4-dihydroxychroman-7-carboximidamide Int-2-D (5.71 g, 22.9 mmol, 97.5% yield): LCMS=250.08 [M+H]+.

reactant | Racemic (3R*,4S*)-3-azido-4-hydroxychroman-7-carbonitrile | N(=[N+]=[N-])C1COC2=CC(=CC=C2C1O)C#N | C10H8N4O2
reactant | hydroxylamine hydrochloride | 47.0 mmol, 3.27 g | Cl.NO
reactant | sodium bicarbonate | 94.0 mmol, 7.90 g | C([O-])(O)=O.[Na+]
solvent | 2-propanol | 94.0 mL | CC(C)O | C3H8O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 3-azido-N′,4-dihydroxychroman-7-carboximidamide | 97.5% yield | N(=[N+]=[N-])C1COC2=CC(=CC=C2C1O)C(N)=NO | C10H11N5O3
